US09388176B2
6-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]-N-phenylpyridine-2-carboxamide
In a manner similar to that described in Example 108, a mixture of 6-[2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylic acid and aniline were converted to the title compound.

reactant | 6-[2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylic acid | CSC=1N=CC2=C(N1)CCN(C2)C2=CC=CC(=N2)C(=O)O | C14H14N4O2S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 6-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]-N-phenylpyridine-2-carboxamide | CSC=1N=CC2=C(N1)CCN(C2)C2=CC=CC(=N2)C(=O)NC2=CC=CC=C2 | C20H19N5OS
